** sch_path: /home/toind/work/vco_adc2/xschem/lib/ALib_VCO.sch
.subckt ALib_VCO p[4] Anlg_in ENB VCCA VCCD VPWR
*.PININFO Anlg_in:I p[4]:O VCCA:I VCCD:I ENB:I VPWR:I
x1 VCCD ENB GND GND VCCD VCCD pn[4] sky130_fd_sc_hd__einvp_1
Xro_1 VCCA GND Vctrl VPWR p[0] p[1] p[2] p[3] p[4] pn[0] pn[1] pn[2] pn[3] pn[4] 5s_cc_osc
R3 Vctrl Anlg_in sky130_fd_pr__res_generic_po W=0.482 L=2 m=1
R1 GND Vctrl sky130_fd_pr__res_generic_po W=0.482 L=2 m=1
.ends

* expanding   symbol:  5s_cc_osc.sym # of pins=14
** sym_path: /home/toind/work/vco_adc2/xschem/lib/5s_cc_osc.sym
** sch_path: /home/toind/work/vco_adc2/xschem/lib/5s_cc_osc.sch
.subckt 5s_cc_osc VCCA GND VGND VPWR p[0] p[1] p[2] p[3] p[4] pn[0] pn[1] pn[2] pn[3] pn[4]
*.PININFO VPWR:B VGND:B pn[0]:O p[0]:B pn[1]:O p[1]:O p[2]:O p[3]:O p[4]:O pn[2]:O pn[3]:O pn[4]:O VCCA:B GND:B
Xi_1 VCCA VPWR p[0] p[4] pn[4] pn[0] GND VGND cc_inv
Xi_2 VCCA VPWR p[1] p[0] pn[0] pn[1] GND VGND cc_inv
Xi_3 VCCA VPWR p[2] p[1] pn[1] pn[2] GND VGND cc_inv
Xi_4 VCCA VPWR p[3] p[2] pn[2] pn[3] GND VGND cc_inv
Xi_5 VCCA VPWR p[4] p[3] pn[3] pn[4] GND VGND cc_inv
.ends


* expanding   symbol:  cc_inv.sym # of pins=8
** sym_path: /home/toind/work/vco_adc2/xschem/lib/cc_inv.sym
** sch_path: /home/toind/work/vco_adc2/xschem/lib/cc_inv.sch
.subckt cc_inv VCCA VPWR outp inp inn outn GND VGND
*.PININFO outp:O inn:I VGND:B outn:O inp:I VPWR:B VCCA:B GND:B
Xi_1 VPWR VCCA outp GND VGND inp main_inv
Xi_2 VPWR VCCA outn GND VGND inn main_inv
Xi_3 VPWR VCCA outp outn GND VGND aux_inv
Xi_4 VPWR VCCA outn outp GND VGND aux_inv
.ends


* expanding   symbol:  main_inv.sym # of pins=6
** sym_path: /home/toind/work/vco_adc2/xschem/lib/main_inv.sym
** sch_path: /home/toind/work/vco_adc2/xschem/lib/main_inv.sch
.subckt main_inv VPWR VCCA Y GND VGND A
*.PININFO VPWR:B VGND:B A:I Y:O VCCA:B GND:B
XM3 Y A VGND GND sky130_fd_pr__nfet_01v8 L=3.65 W=8 nf=2 m=1
XM4 Y A VPWR VCCA sky130_fd_pr__pfet_01v8 L=3.65 W=10 nf=2 m=1
.ends


* expanding   symbol:  aux_inv.sym # of pins=6
** sym_path: /home/toind/work/vco_adc2/xschem/lib/aux_inv.sym
** sch_path: /home/toind/work/vco_adc2/xschem/lib/aux_inv.sch
.subckt aux_inv VPWR VCCA A Y GND VGND
*.PININFO VPWR:B VGND:B A:I Y:O VCCA:B GND:B
XM3 Y A VGND GND sky130_fd_pr__nfet_01v8 L=3.65 W=4 nf=1 m=1
XM4 Y A VPWR VCCA sky130_fd_pr__pfet_01v8 L=3.65 W=5 nf=1 m=1
.ends

.GLOBAL GND
.end
